US08383827B2
To a solution of N-((4-chloro-5-(3-chloro-4-cyanophenyl)pyridin-3-yl)(cyclopropyl)methyl)-N-methylmethanesulfonamide (51 mg, 0.124 mmol) in THF (10 mL) and DMSO (0.1 mL) was added 1M KOtBu in THF (0.37 mL, 0.37 mmol), and the mixture was heated to 65° C. for 10 min under microwave irradiation. The mixture was quenched with MeOH (2 mL) and concentrated. The residue was purified by Xbridge C18 eluting with 20-100% ACN-water to give 2-chloro-4-(4-cyclopropyl-3-methyl-2,2-dioxo-1,2,3,4-tetrahydro-2-thia-3,6-diaza-naphthalen-8-yl)-benzonitrile

reactant | N-((4-chloro-5-(3-chloro-4-cyanophenyl)pyridin-3-yl)(cyclopropyl)methyl)-N-methylmethanesulfonamide | 0.124 mmol, 51 mg | ClC1=C(C=NC=C1C1=CC(=C(C=C1)C#N)Cl)C(N(S(=O)(=O)C)C)C1CC1 | C18H17Cl2N3O2S
reactant | KOtBu | 1M | CC(C)(C)[O-].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMSO | 0.1 mL | CS(=O)C | C2H6OS
solvent | THF | 0.37 mmol, 0.37 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-(4-cyclopropyl-3-methyl-2,2-dioxo-1,2,3,4-tetrahydro-2-thia-3,6-diaza-naphthalen-8-yl)-benzonitrile | ClC1=C(C#N)C=CC(=C1)C=1C=NC=C2C(N(S(CC12)(=O)=O)C)C1CC1 | C18H16ClN3O2S
